US04283328
There was added 2 ml of N-sodium hydroxide to a solution of 0.556 g (0.001 mole) of N-carbobenzoxy-L-prolyl-dehydrophenylalanyl-L-phenylalanine methyl ester in 10 ml of methanol. The mixture was stirred at room temperature for 2 hours and concentrated in vacuo. The residual aqueous solution was washed with ethyl acetate and after acidification with 4 N-hydrochloric acid, the resulting separated oil was extracted into ethyl acetate and the extracts were dried over anhydrous Na2SO4. The solvent was evaporated in vacuo and the residual oil was purified on a column of silica gel (60-200 mesh) by elution with ether. The oily product was crystallized from ether to yield 0.357 g (66%) of N-carbobenzoxy-L-prolyl-dehydrophenylalanyl-L-phenylalanine, mp 171°-173°, RfA 0.68, [α]D26 =-30.2° (c, 1% in THF); ir (CHCl3) 1730 (Sh, C=O9, 1670 (C=O), 1630 cm-1 (Sh, C=C); NMR (CDCl3) δ1.5-2.3 (m, 4 H, Pro ring), 3.0-3.5 (m, 2H, >CH--CH2Ph), 3.2-3.7 (m, 2H, Pro ring), 4.2-4.5 (m, 1H>CHCH2Ph), 4.6-5.0 (m, 1H, Pro ring), 5.0 (s, 2H,>N-OCOCH2Ph), 7.0-7.6 (m, 16H, ArH and PhCH=C--), 8.0-8.27 (br, 1H, -NH exchanged by D2O); 9.03-9.5 (br, 2H, -NH or -COOH, exchanged by D2O).

reactant | N-carbobenzoxy-L-prolyl-dehydrophenylalanyl-L-phenylalanine methyl ester | 0.001 mole, 0.556 g | COC([C@@H](NC(C(NC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O)=CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C32H33N3O6
solvent | methanol | 10 ml | CO | CH4O
product | N-carbobenzoxy-L-prolyl-dehydrophenylalanyl-L-phenylalanine | 0.357 g, 66% | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)NC(=CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1 | C31H31N3O6
